US04001244
Substitution of a like quantity of 7-benzyloxy-6-methoxy-1-phenyl-3,4-dihydroisoquinoline for the 6-benzyloxy-7-methoxy-1-phenyl-3,4-dihydroisoquinoline used above and substantial repetition of the foregoing procedure affords 7-benzyloxy-6-methoxy-1-phenyl-1,2,3,4-tetrahydroisoquinoline, melting at about 123°-125°C.

reactant | 7-benzyloxy-6-methoxy-1-phenyl-3,4-dihydroisoquinoline | C(C1=CC=CC=C1)OC1=C(C=C2CCN=C(C2=C1)C1=CC=CC=C1)OC | C23H21NO2
reactant | 6-benzyloxy-7-methoxy-1-phenyl-3,4-dihydroisoquinoline | C(C1=CC=CC=C1)OC=1C=C2CCN=C(C2=CC1OC)C1=CC=CC=C1 | C23H21NO2
product | 7-benzyloxy-6-methoxy-1-phenyl-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)OC1=C(C=C2CCNC(C2=C1)C1=CC=CC=C1)OC | C23H23NO2
